US07074819B2
Step 2) Synthesis of 9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonyne
To a solution of 5-(t-butyldimethylsilyloxy)-3-oxa-1-pentanol (2.16 g, 9.8 mmol) in dry tetrahydrofuran (20 ml) was added sodium hydride (432 mg, 60% in oil, 10.8 mmol) at room temperature. The mixture was stirred for 30 minutes, and propalgyl bromide (2.9 g, 19.6 mmol) was added thereto. The mixture was stirred at room temperature for 12 hours. After the reaction was completed, water was added thereto. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried over anhydrous sodium sulfate, and filtered. The organic solvent was removed under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=8:1) to give the title compound (950 mg, yield: 38%).

reactant | 5-(t-butyldimethylsilyloxy)-3-oxa-1-pentanol | 9.8 mmol, 2.16 g | [Si](C)(C)(C(C)(C)C)OCCOCCO | C10H24O3Si
reactant | sodium hydride | 10.8 mmol, 432 mg | [H-].[Na+]
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonyne | 950 mg, yield: 38% | [Si](C)(C)(C(C)(C)C)OCCOCCOCC#C | C13H26O3Si
